US03998829
3α-Acetoxy-5α-pregnane-11,20-dione
A solution of 3α-hydroxy-5α-pregnane-11,20-dione (1 g) in pyridine (ca 5 ml) was treated with acetic anhydride (2.5 ml) and allowed to stand overnight. The reaction mixture was poured into water and the solid collected by filtration and dried to give the title compound m.p. 150°-151°.

reactant | 3α-hydroxy-5α-pregnane-11,20-dione | 1 g | O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C21H32O3
reactant | acetic anhydride | 2.5 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | water | O | H2O
solvent | pyridine | ca 5 ml | N1=CC=CC=C1 | C5H5N
product | 3α-Acetoxy-5α-pregnane-11,20-dione | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@H](C(C)=O)[C@]4(CC([C@@H]3[C@]2(CC1)C)=O)C | C23H34O4
